US04113951
EXAMPLE 6: 5-acetamido-6-(2-chloro ethoxy) 4,7-dimethoxy benzofuran. Code number: 750 885
A solution of 25.1 g (0.1 mole) of 5-acetamido 4,7-dimethoxy 6-hydroxy benzofuran in 15 ml of a 50% aqueous solution of soda was brought to 90° C. and 21 g (0.1 mole) of 2-chloro ethanol tosylate was slowly added, it was kept at 90° C. for 2 hours, diluted in 1 l of water, filtered and recrystallized in ethanol.

reactant | 5-acetamido 4,7-dimethoxy 6-hydroxy benzofuran | 0.1 mole, 25.1 g | C(C)(=O)NC=1C(=C(C2=C(C=CO2)C1OC)OC)O | C12H13NO5
reactant | 2-chloro ethanol tosylate | 0.1 mole, 21 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCl | C9H11ClO3S
solvent | water | 1 l | O | H2O
product | 5-acetamido-6-(2-chloro ethoxy) 4,7-dimethoxy benzofuran | C(C)(=O)NC=1C(=C(C2=C(C=CO2)C1OC)OC)OCCCl | C14H16ClNO5
